US09284333B2
A solution of 3-((R)-1-{[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propyl)-benzoic acid methyl ester (synthesized from comp. no. 11a and 3-((R)-1-amino-propyl)-benzoic acid methyl ester) in methanol (0.5 ml) and 2 N aqueous sodium hydroxide (0.5 ml) was stirred at reflux for 1 h, the solvents were evaporated, water was added and the solution was acidified with excess aqueous hydrochloric acid. The solid formed was filtered off, washed with water and dried in vacuo to give 41 mg (73%) of 3-((R)-1-{[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propyl)-benzoic acid. LC/MS (method 2): rt=1.1 min; m/z=490.4 (M+H+).

reactant | 3-((R)-1-{[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)[C@@H](CC)NC(=O)C1=CC(=C2COCCN21)C(N[C@H](CC)C2=CC=CC=C2)=O)=O | C29H33N3O5
reactant | 3-((R)-1-amino-propyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)[C@@H](CC)N)=O | C11H15NO2
reactant | sodium hydroxide | 2 N, 0.5 ml | [OH-].[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 3-((R)-1-{[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propyl)-benzoic acid | 41 mg, 73% | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N[C@H](CC)C=2C=C(C(=O)O)C=CC2 | C28H31N3O5
